US04168269
9-Allyl-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepine
A solution of 4.6 g. of 9-allyl-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one in 100 ml. of dried tetrahydrofuran is added dropwise with stirring, under nitrogen, to a suspension of 2.9 g. of lithium aluminum hydride in 100 ml. of dried tetrahydrofuran. The reaction mixture is heated under reflux with stirring overnight, then cooled in an ice bath and treated, with stirring under nitrogen, with 3 ml. of water, 3 ml. of 15% sodium hydroxide and finally with 9 ml. of water. The complex is filtered and washed several times with ether. The combined filtrate and washings are dried over sodium sulfate, filtered and the filtrate is concentrated to a dark blue oil. This oil is dissolved in 20 ml. of 30% methylene chloride in hexane and chromatographed on an alumina column as described in the previous example. Concentration of the solvent mixture yields a dark green oil which is heated to boiling in 80 ml. of hexane. The boiling hexane is decanted from a dark brown insoluble oil and then cooled giving crystals of the desired product, mp. 67°-69° C.

reactant | 9-allyl-4,9-dihydro-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C(C=C)N1C(C=2C(NC3=C1C=CC=C3)=CSC2)=O | C14H12N2OS
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 9-Allyl-9,10-dihydro-4H-thieno[3,4-b][1,5]benzodiazepine | C(C=C)N1CC=2C(NC3=C1C=CC=C3)=CSC2 | C14H14N2S
